US04789674
196.5 g (0.75 mol) of N-(2-methoxycarbonylacetyl)iminodiacetic acid dimethyl ester dissolved in 200 ml of methanol are added dropwise to a solution of 17.1 g of sodium (0.75 mol) in 900 ml of methanol. The reaction mixture is then heated under reflux for 12 hours, cooled to room temperature and concentrated to dryness by evaporation under a water-jet vacuum. The yellowish residue is dissolved in 500 ml of water, filtered over a layer of diatomaceous earth and then 160 ml of semi-concentrated aqueous hydrochloric acid are added. After stirring for a further one hour the resulting crystals are filtered off, washed with acetone and dried. 2,5-dihydro-4-hydroxy-3-methoxycarbonyl-2-oxo-1H-pyrrole-1-acetic acid methyl ester is obtained having a melting point of 192° (decomposition).

reactant | N-(2-methoxycarbonylacetyl)iminodiacetic acid dimethyl ester | 0.75 mol, 196.5 g | COC(CN(C(CC(=O)OC)=O)CC(=O)OC)=O | C10H15NO7
reactant | sodium | 0.75 mol, 17.1 g | [Na] | Na
solvent | methanol | 200 ml | CO | CH4O
solvent | methanol | 900 ml | CO | CH4O
product | 2,5-dihydro-4-hydroxy-3-methoxycarbonyl-2-oxo-1H-pyrrole-1-acetic acid methyl ester | COC(CN1C(C(=C(C1)O)C(=O)OC)=O)=O | C9H11NO6
